US05428065
A solution of lithium diisopropylamide 1.5M in tetrahydrofuran (6 ml, 9 mmol) was added dropwise to a stirred solution of 2,6-dicyanotoluene (0.85 g, 6 mmol) and tetramethyl ethylenediamine (1.04 g, 9 mmol) in dry tetrahydrofuran (50 ml), cooled to -70° C. under nitrogen. After one hour, 8-phenyloctyl iodide (2.15 g, 6.8 mmol) was added dropwise at -70° C. to the intense blue suspension, then allowed to warm to 0° C. over one hour. Water (100 ml) was added (cautiously at first) to the brown mixture and then extracted with diethyl ether (50 ml). The extracts were washed with 2M hydrochloric acid, dried, filtered and evaporated to a brown oil (2.67 g). Purified by chromatography on flash silica eluting with dichloromethane gave 2-(9-phenylnonyl)-1,3-benzenedicarbonitrile as an oil.

reactant | lithium diisopropylamide | 1.5M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,6-dicyanotoluene | 6 mmol, 0.85 g | C(#N)C1=C(C(=CC=C1)C#N)C | C9H6N2
reactant | tetramethyl ethylenediamine | 9 mmol, 1.04 g | CN(CCN(C)C)C | C6H16N2
reactant | 8-phenyloctyl iodide | 6.8 mmol, 2.15 g | C1(=CC=CC=C1)CCCCCCCCI | C14H21I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 mmol, 6 ml | O1CCCC1 | C4H8O
solvent | Water | 100 ml | O | H2O
product | 2-(9-phenylnonyl)-1,3-benzenedicarbonitrile | C1(=CC=CC=C1)CCCCCCCCCC1=C(C=CC=C1C#N)C#N | C23H26N2
